US04929634
Preparation of 5-bromo-4-(p-chlorophenyl)pyrrole-3-carboxylic acid
Ethyl 5-bromo-4-(p-chlorophenyl)pyrrole-3-carboxylate (15 g., 0.045 mmol) is added to 200 mL of 10% sodium hydroxide and the slurry heated to reflux. After everything appears to dissolve the mixture is refluxed an additional 40 minutes. The mixture is cooled, filtered and the filtrate acidified. The white precipitate (8.0 g, 58%) is collected and dried. The solid has m.p. >205° C. and an NMR (d6 -DMSO) which showed a pyrrole proton at 7.52 (d). The mass spectrum is also consistent for a monobrominated compound.

reactant | Ethyl 5-bromo-4-(p-chlorophenyl)pyrrole-3-carboxylate | 0.045 mmol, 15 g | BrC1=C(C(=CN1)C(=O)OCC)C1=CC=C(C=C1)Cl | C13H11BrClNO2
solvent | sodium hydroxide | 200 mL | [OH-].[Na+]
product | 5-bromo-4-(p-chlorophenyl)pyrrole-3-carboxylic acid | BrC1=C(C(=CN1)C(=O)O)C1=CC=C(C=C1)Cl | C11H7BrClNO2
